US07851474B2
J. 3-{4-[2-(4-Cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazin-1-yl}-6-phenylpyridazine (Compound 10)
In a sealed vial, dissolve 3-chloro-6-{4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazin-1-yl}pyridazine (15.1 mg, 0.04 mmol), phenyl boronic acid (9.8 mg, 0.08 mmol), and Pd(PPh3)4 (2.3 mg, 0.002 mmol) in dioxane (0.7 mL) and 2N K2CO3 (0.1 mL). Degas with N2 and seal the vial. Heat the mixture at 85° C. overnight. Cool and partition between EtOAc (0.5 mL) and 1N NaOH (0.5 mL). Extract the organic phase and place directly on an SCX ion exchange resin cartridge. Wash the resin with EtOAc/MeOH (9:1). Discard this wash. Wash the resin with EtOAc/MeOH/TEA(9:1:1) and collect. Remove the solvent to yield the title compound. 1H NMR (CDCl3) δ 8.00 (dd, 2H) 7.66 (d, 1H), 7.49-7.40 (m, 3H) 6.99 (d, 1H), 3.73 (t, 4H), 3.66-3.63 (m, 4H), 3.26 (s, 2H), 2.75-2.66 (m, 5H), 2.35-2.29 (m, 4H), 1.88-1.84 (m, 2H), 1.74-1.71 (m, 2H) 1.35-1.2 (m, 2H); LC-MS (M+1) 421.05.

reactant | 3-chloro-6-{4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazin-1-yl}pyridazine | 0.04 mmol, 15.1 mg | ClC=1N=NC(=CC1)N1CCN(CC1)CC(=O)N1CCN(CC1)C1CCC1 | C18H27ClN6O
reactant | phenyl boronic acid | 0.08 mmol, 9.8 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dioxane | 0.7 mL | O1CCOCC1 | C4H8O2
solvent | K2CO3 | 2N, 0.1 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.002 mmol, 2.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-{4-[2-(4-Cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazin-1-yl}-6-phenylpyridazine | C1(CCC1)N1CCN(CC1)C(CN1CCN(CC1)C=1N=NC(=CC1)C1=CC=CC=C1)=O | C24H32N6O
